US04237323
An alcoholic solution of potassium α-naphtholate produced as in Example 4 hereinabove is acidified with gaseous hydrochloric acid taken in the equimolar amount relative to potassium α-naphtholate at a temperature ranging from 20° to 30° C. After separation of precipitated pure potassium chloride, the solution of α-naphthol in ethanol is separated following the procedure described in the foregoing Example 4 to give 116 g of α-naphthol with a purity of 97.5%. The total yield of α-naphthol is 140 g (98% of theory) as calculated for the employed naphthalene.

reactant | hydrochloric acid | Cl | ClH
reactant | potassium α-naphtholate | C1(=CC=CC2=CC=CC=C12)[O-].[K+]
product | α-naphthol | 116 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
